US06265349B1
Preparation of 3-(7-chloro-5-fluoro-2-hydroxymethylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone (Compound No. 4-5)
0.20 g (0.51 mmol) of 3-(7-chloro-5-fluoro-2-methoxymethylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone was dissolved in 10 ml of dichloromethane, and 1.54 ml (1.54 mmol) of a 1.0M boron tribromide dichloromethane solution was added thereto at ±65° C. The mixture was stirred at −65° C. for 1 hour and then poured into water, followed by stirring at room temperature for 30 minutes. Then, it was extracted with dichloromethane. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Dichloromethane was distilled off under reduced pressure. Then, the obtained crude crystals were washed with n-hexane to obtain 0.19 g (yield: 99%) of the desired product. Melting point: 145-147° C. 1H-NMR (300 MHz, CDCl3) δ value: 3.73(3H,s), 4.55(2H,s), 6.66(1H,s), 6.80(1H,d), 7.20(1H,d), 7.55(1H,d)ppm.

reactant | 3-(7-chloro-5-fluoro-2-methoxymethylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.51 mmol, 0.20 g | ClC1=CC(=C(C=2C=C(OC21)COC)C=2C(N(C(=CC2)C(F)(F)F)C)=O)F | C17H12ClF4NO3
reactant | boron tribromide dichloromethane | 1.0M | ClCCl.B(Br)(Br)Br
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(7-chloro-5-fluoro-2-hydroxymethylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.19 g, yield: 99% | ClC1=CC(=C(C=2C=C(OC21)CO)C=2C(N(C(=CC2)C(F)(F)F)C)=O)F | C16H10ClF4NO3
